US04737496
To a solution of 1.4 g of 1,3,4,16b-tetrahydro-2-methyl-2H,10H-indolo[2,1-c]pyrazino[1,2-a][1,4]benzodiazepine-16-carboxaldehyde in 35 ml tetrahydrofuran is added 17 ml of 1M diborane in tetrahydrofuran. The reaction mixture is heated at reflux temperature for 5 hours. The reaction is then treated with 10 ml methanol and 3.5 ml acetic acid and heating is continued for an additional 1 hour. The solvent is evaporated under reduced pressure and the residue is dissolved in methylene chloride and washed with 5% sodium hydroxide solution. The methylene chloride layer is separated and the solvent evaporated under reduced pressure to yield 1,3,4,16b-tetrahydro-2,16-dimethyl-2H,10H-indolo[2,1-c]pyrazino[1,2-a][1,4]benzodiazepine which is converted to the hydrochloride salt, mp 293°-298° dec.

reactant | 1,3,4,16b-tetrahydro-2-methyl-2H,10H-indolo[2,1-c]pyrazino[1,2-a][1,4]benzodiazepine-16-carboxaldehyde | 1.4 g | CN1CC2N(C3=C(CN4C2=C(C=2C=CC=CC24)C=O)C=CC=C3)CC1 | C21H21N3O
reactant | diborane | 1M, 17 ml | B#B | B2
reactant | methanol | 10 ml | CO | CH4O
reactant | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 1,3,4,16b-tetrahydro-2,16-dimethyl-2H,10H-indolo[2,1-c]pyrazino[1,2-a][1,4]benzodiazepine | CN1CC2N(C3=C(CN4C2=C(C=2C=CC=CC24)C)C=CC=C3)CC1 | C21H23N3
